US07220750B2
4-[(R)-(1-Phenylethyl)amino]-7-[2-(azetidin-1-yl)ethoxy]-6-nitroquinazoline
221 mg of dried potassium carbonate and 50 mg of sodium iodide were given to 600 mg of 4-[(R)-(1-phenylethyl)amino]-7-[2-methanesulfonyloxyethoxy]-6-nitroquinazoline and 0.34 ml of azetidine in 5.0 ml of acetonitrile. The reaction mixture was heated up to 70° C. with stirring. Subsequently 3 ml of acetonitrile were added after one hour and the mixture was stirred for further about 40 hours at 70° C. The solvent was removed in vacuo and the obtained residue was mixed with ice water. The precipitate was suction filtered and dried. The aqueous phase was extracted with methylene chloride and evaporated. The combined precipitates were dissolved in ethyl acetate and stirred together with a little of silica gel and 120 mg of charcoal for further purification. The obtained suspension was filtered and evaporated yielding a yellow resin. Yield: 518 mg (95% of theory); Rf value: 0.40 (silica gel, methylene chloride/methanol/concentrated aqueous ammonia solution 90:10:0.1); mass spectrum (ESI+): m/z=394 [M+H]+.

reactant | potassium carbonate | 221 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 50 mg | [I-].[Na+]
reactant | 4-[(R)-(1-phenylethyl)amino]-7-[2-methanesulfonyloxyethoxy]-6-nitroquinazoline | 600 mg | C1(=CC=CC=C1)[C@@H](C)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OCCOS(=O)(=O)C | C19H20N4O6S
reactant | azetidine | 0.34 ml | N1CCC1 | C3H7N
solvent | acetonitrile | 5.0 ml | C(C)#N | C2H3N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 4-[(R)-(1-Phenylethyl)amino]-7-[2-(azetidin-1-yl)ethoxy]-6-nitroquinazoline | C1(=CC=CC=C1)[C@@H](C)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OCCN1CCC1 | C21H23N5O3
